US05631257
2-(1-Homopiperazinyl)benzoxazole
A 978 mg portion of homopiperazine was dissolved in 3 ml of DMF. Under cooling with ice, 500 mg of 2-chloro-benzoxazole was added to the thus prepared solution, and the reaction was carried out for 1 hour at the same temperature and then for 24 hours at room temperature. The reaction solution was concentrated under a reduced pressure, and the resulting residue was dissolved in 200 ml of ethyl acetate, washed with sodium hydrogencarbonate aqueous solution (pH 8) and water in that order, dehydrated with sodium sulfate and then concentrated under a reduced pressure. Thereafter, the resulting residue was purified by a silica gel column chromatography (chloroform:methanol=10:1) to obtain 540 mg of the title compound.

reactant | homopiperazine | N1CCNCCC1 | C5H12N2
reactant | 2-chloro-benzoxazole | 500 mg | ClC=1OC2=C(N1)C=CC=C2 | C7H4ClNO
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 2-(1-Homopiperazinyl)benzoxazole | 540 mg | N1(CCNCCC1)C=1OC2=C(N1)C=CC=C2 | C12H15N3O
